US05891889
Step B: Preparation of [1-Benzyl-4-(3-methylphenylamino)piperidin-4-ylmethyl]urea
A mixture of 1-benzyl-4-(3-methylphenylamino)-4-aminomethylpiperidine (247 mg, 0.79 mmol) and nitrourea (253 mg, 2.4 mmol) in mixture of acetonitrile (1 mL) and water (10 drops) was stirred at room temp. for 48 hrs. The resultant mixture was concentrated under vacuum, and the residue was subjected to column chromatography on silica gel eluting with a 1:1 mixture of 15% methanol in chloroform and chloroform saturated with ammonia gas. Collection and concentration of appropriate fractions provided the title compound.

reactant | 1-benzyl-4-(3-methylphenylamino)-4-aminomethylpiperidine | 0.79 mmol, 247 mg | C(C1=CC=CC=C1)N1CCC(CC1)(CN)NC1=CC(=CC=C1)C | C20H27N3
reactant | nitrourea | 2.4 mmol, 253 mg | [N+](=O)([O-])NC(=O)N | CH3N3O3
catalyst | water | 10 drops | O | H2O
solvent | acetonitrile | 1 mL | C(C)#N | C2H3N
product | [1-Benzyl-4-(3-methylphenylamino)piperidin-4-ylmethyl]urea | C(C1=CC=CC=C1)N1CCC(CC1)(NC1=CC(=CC=C1)C)CNC(=O)N | C21H28N4O
